US04200641
To a stirred mixture of 6.5 parts of 5-chloro-2-methyl-1H-benzimidazole-1-propanol and 120 parts of trichloromethane are added dropwise 12 parts of sulfinyl chloride. Upon completion, the whole is heated to reflux and stirring is continued for 3 hours at reflux temperature. The reaction mixture is cooled and evaporated. Water is added to the residue and the mixture is treated with activated charcoal. The latter is filtered off and the filtrate is alkalized with ammonium hydroxide. The product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is crystallized from 2,2'-oxybispropane. The product is filtered off and dried, yielding 5-chloro-1-(3-chloropropyl)-2-methyl-1H-benzimidazole.

reactant | 5-chloro-2-methyl-1H-benzimidazole-1-propanol | ClC1=CC2=C(N(C(=N2)C)CCCO)C=C1 | C11H13ClN2O
reactant | sulfinyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 5-chloro-1-(3-chloropropyl)-2-methyl-1H-benzimidazole | ClC1=CC2=C(N(C(=N2)C)CCCCl)C=C1 | C11H12Cl2N2
